US07842688B2
b) Benzyl 4-[4-(2(R)-methoxy-3-phenoxypropoxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
The solution of 0.330 g of benzyl 4-[4-(2(R)-hydroxy-3-phenoxypropoxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate in 3.0 ml of tetrahydrofuran is cooled to 0° C. and admixed with stirring with 0.018 g of NaH dispersion (60%). The mixture is stirred at room temperature over 1.5 hours and subsequently admixed with 0.056 ml of methyl iodide. The reaction mixture is stirred for a further 2 hours, poured onto water (40 ml) and extracted with ethyl acetate (2×40 ml). The organic phases are washed with brine (40 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.33 (1:1 EtOAc-heptane); Rt=5.54.

reactant | benzyl 4-[4-(2(R)-hydroxy-3-phenoxypropoxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.330 g | O[C@@H](COC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1)COC1=CC=CC=C1 | C41H46N2O9
reactant | NaH | 0.018 g | [H-].[Na+]
reactant | methyl iodide | 0.056 ml | CI | CH3I
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | Benzyl 4-[4-(2(R)-methoxy-3-phenoxypropoxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | CO[C@@H](COC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1)COC1=CC=CC=C1 | C42H48N2O9
